US07727985B2
4-methyl-9H-β-carboline (97 mg, 0.532 mmol) was dissolved in HCl (1N, 4 ml) and stirred at RT. NCS (85 mg, 0.637 mmol) was added thereto and the reaction mixture was stirred for 5 hr. Saturated sodium bicarbonate solution (20 ml) was added thereto and the reaction mixture was extracted twice with EtOAc (100 ml). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to give 6-chloro-4-methyl-9H-β-carboline (108 mg) as an oil.

reactant | 4-methyl-9H-β-carboline | 0.532 mmol, 97 mg | CC1=CN=CC=2NC3=CC=CC=C3C12 | C12H10N2
reactant | NCS | 0.637 mmol, 85 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | HCl | 1N, 4 ml | Cl | ClH
product | 6-chloro-4-methyl-9H-β-carboline | 108 mg | ClC=1C=C2C=3C(=CN=CC3NC2=CC1)C | C12H9ClN2
